### PR TITLE
[Merged by Bors] - feat(Data/Set/Finite): Induction principle for `Set`

### PR DESCRIPTION
**Pull request by tb65536**
This PR adds another induction principle for `Set` where you prove that a property `C` holds of `Set.univ` by proving the inductive step `C S → ∃ a ∉ S, C (insert a S)` (the key being exists the use of exists rather than forall).

---

This was included in a resolved comment below: My motivation for the `∃ a` version is that it's needed to prove that a transitive subgroup generated by transpositions must be the whole symmetric group.

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Data/Set/Finite.lean [hunk 1]
```diff
@@ -1207,6 +1207,12 @@ theorem Finite.dinduction_on {C : ∀ s : Set α, s.Finite → Prop} (s : Set α
   this h
 #align set.finite.dinduction_on Set.Finite.dinduction_on
 
+theorem Finite.induction_univ [Finite α] (C : Set α → Prop) (S0 : Set α)
+    (H0 : C S0) (ih : ∀ S ≠ Set.univ, C S → ∃ a ∉ S, C ({a} ∪ S)) : C Set.univ := by
```
Comment (urkud) [inline Mathlib/Data/Set/Finite.lean:1211]:
```suggestion
    (H0 : C S0) (ih : ∀ S ≠ Set.univ, C S → ∃ a ∉ S, C (insert a S)) : C Set.univ := by
```

File: Mathlib/Data/Set/Finite.lean [hunk 2]
```diff
@@ -1207,6 +1207,12 @@ theorem Finite.dinduction_on {C : ∀ s : Set α, s.Finite → Prop} (s : Set α
   this h
 #align set.finite.dinduction_on Set.Finite.dinduction_on
 
+theorem Finite.induction_univ [Finite α] (C : Set α → Prop) (S0 : Set α)
+    (H0 : C S0) (ih : ∀ S ≠ Set.univ, C S → ∃ a ∉ S, C (insert a S)) : C Set.univ := by
+  refine' Finite.to_wellFoundedGT.wf.induction_bot' (fun S hS hS' ↦ _) H0
+  obtain ⟨a, ha, ha'⟩ := ih S hS hS'
+  exact ⟨_, Set.ssubset_insert ha, ha'⟩
```
Comment (jcommelin) [inline Mathlib/Data/Set/Finite.lean:1214]: I guess there are several natural statements. E.g., you could also ask `\forall S, C S -> \forall a, C (insert a S)`.
Can you comment a bit on why you chose this statement? Should we just add both variants, and maybe even a third?

Also: should this be generalized to proving `C U` for a `U : Set X` with `hU: U.Finite`. And then drop the finiteness assumption on the ambient type.

Comment (tb65536) [reply Mathlib/Data/Set/Finite.lean]: We already have the more standard `∀ a` version (it's just above, called `Finite.induction_on'`). My motivation for the `∃ a` version is that it's needed to prove that a transitive subgroup generated by transpositions must be the whole symmetric group.

I added the generalization you mentioned, although it's proof is currently a bit painful.

Comment (alreadydone) [reply Mathlib/Data/Set/Finite.lean]: I recall that the "bubble sort" induction PR https://github.com/leanprover-community/mathlib/pull/16536 was also aimed at symmetric groups ...

File: Mathlib/Data/Set/Finite.lean [hunk 3]
```diff
@@ -1207,6 +1207,27 @@ theorem Finite.dinduction_on {C : ∀ s : Set α, s.Finite → Prop} (s : Set α
...
+  have : Finite S := Finite.to_subtype h
+  have : Finite M := Finite.of_equiv (Set S) (Equiv.Set.powerset S).symm
+  let P : M → Prop := C ∘ Subtype.val
+  change P ⟨S, le_rfl⟩
+  replace H0 : P ⟨S0, hS0⟩ := H0
+  refine' Finite.to_wellFoundedGT.wf.induction_bot' (fun s hs hs' ↦ _) H0
+  obtain ⟨a, ⟨ha1, ha2⟩, ha'⟩ := H1 s (ssubset_of_ne_of_subset hs s.2) hs'
+  rw [show insert a s.1 = Subtype.val (⟨insert a s.1, insert_subset ha1 s.2⟩ : M) from rfl] at ha'
+  refine' ⟨_, Set.ssubset_insert _, ha'⟩
+  exact ha2
```
Comment (j-loreaux) [inline Mathlib/Data/Set/Finite.lean:1224]:
```suggestion
  have : Finite S := Finite.to_subtype h
  have : Finite {T : Set α // T ⊆ S} := Finite.of_equiv (Set S) (Equiv.Set.powerset S).symm
  rw [← Subtype.coe_mk (p := (· ⊆ S)) _ le_rfl]
  rw [← Subtype.coe_mk (p := (· ⊆ S)) _ hS0] at H0
  refine Finite.to_wellFoundedGT.wf.induction_bot' (fun s hs hs' ↦ ?_) H0
  obtain ⟨a, ⟨ha1, ha2⟩, ha'⟩ := H1 s (ssubset_of_ne_of_subset hs s.2) hs'
  exact ⟨⟨insert a s.1, insert_subset ha1 s.2⟩, Set.ssubset_insert ha2, ha'⟩
```

**Comment by j-loreaux** [comment]
bors d+
